US04814332
131 mg of 4-(dimethylamino)benzaldehyde are added to a solution of 90 mg of 1,3-diamino-2-(4-methoxyphenyl) imidazolium chloride in 2 ml of glacial acetic acid. After stirring at room temperature for 48 hours, the dark yellow solution is evaporated. The residue is placed on a column loaded with 8 g of silica gel, whereupon the product is eluted with dichloromethane/ethanol (9:1) and recrystallized from ethanol/ether. There is obtained 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)imidazolium chloride of melting point 250°.

reactant | 4-(dimethylamino)benzaldehyde | 131 mg | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 1,3-diamino-2-(4-methoxyphenyl) imidazolium chloride | 90 mg | [Cl-].N[N+]1=C(N(C=C1)N)C1=CC=C(C=C1)OC
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)imidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C2=CC=C(C=C2)OC)C=C1)C | InChI=1S/C28H31N6O.ClH/c1-31(2)25-12-6-22(7-13-25)20-29-33-18-19-34(28(33)24-10-16-27(35-5)17-11-24)30-21-23-8-14-26(15-9-23)32(3)4;/h6-21H,1-5H3;1H/q+1;/p-1
